US04386031
(a) 11-[4-Chloro-N-(4-methoxyphenyl)-benzamido]-undecanoic acid methyl ester
As described in example 1(a), the reaction is carried out with 28.7 g (0.11 mol) of 4-chloro-N-(4-methoxyphenyl)-benzamide, 4.5 g (0.18 mol) of sodium hydride, 36.7 g (0.13 mol) of 11-bromoundecanoic acid methyl ester, 100 cc. of dimethylformamide and 3 g (0.02 mol) of sodium iodide. Reaction time: 5 hours, reaction temperature: 80° C. The crude product is used in the next step without further purification.

reactant | 4-chloro-N-(4-methoxyphenyl)-benzamide | 0.11 mol, 28.7 g | ClC1=CC=C(C(=O)NC2=CC=C(C=C2)OC)C=C1 | C14H12ClNO2
reactant | sodium hydride | 0.18 mol, 4.5 g | [H-].[Na+]
reactant | 11-bromoundecanoic acid methyl ester | 0.13 mol, 36.7 g | COC(CCCCCCCCCCBr)=O | C12H23BrO2
reactant | sodium iodide | 0.02 mol, 3 g | [I-].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 11-[4-Chloro-N-(4-methoxyphenyl)-benzamido]-undecanoic acid methyl ester | COC(CCCCCCCCCCN(C(C1=CC=C(C=C1)Cl)=O)C1=CC=C(C=C1)OC)=O | C26H34ClNO4
